US07256298B2
To a solution of 7.4 g (100.0 mmol) of isopropylhydrazine in 100 ml of ethanol was added dropwise under stirring 23.3 g (purity: 85.0%, 100.0 mmol) of ethyl 4,4,4-trifluoro-2-methyl-3-oxobutanoate under ice-cooling so that the temperature in the reaction system did not exceed 10° C. After the dropwise addition, the whole was stirred at room temperature for 30 minutes. Then, 1 ml of concentrated hydrochloric acid was added into the reaction solution, followed by 2 days of stirring under refluxing. After the completion of the reaction was confirmed, the solvent was removed by evaporation under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and saline, successively, and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure and the residue was washed with n-hexane to obtain 18.1 g (yield: 87.0%) of 5-hydroxy-4-methyl-1-iso-propyl-3-trifluoromethyl-1H-pyrazole as white crystals (melting point: 150 to 153° C.).

reactant | isopropylhydrazine | 100.0 mmol, 7.4 g | C(C)(C)NN | C3H10N2
reactant | ethyl 4,4,4-trifluoro-2-methyl-3-oxobutanoate | 100.0 mmol, 23.3 g | FC(C(C(C(=O)OCC)C)=O)(F)F | C7H9F3O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-hydroxy-4-methyl-1-iso-propyl-3-trifluoromethyl-1H-pyrazole | 18.1 g, yield: 87.0% | OC1=C(C(=NN1C(C)C)C(F)(F)F)C | C8H11F3N2O
